US07994171B2
2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(1-methyl-1H-imidazol-4-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide.
3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid (0.15 g, 0.37 mmol, 1 eq), 1-(1-methyl-1H-imidazol-4-yl) cyclopropanamine (0.061 g, 0.44 mmol, 1.2 eq), EDCI.HCl (0.078 g, 0.40 mmol, 1.1 eq), HOBT (0.049 g, 0.37 mmol, 1.0 eq) and TEA (0.15 ml, 1.1 mmol, 3 eq) were dissolved in dichloromethane and the above mixture was stirred at room temperature for 18 h. The mixture was then added with water. The organic layer was separated, washed with water, concentrated and the crude product purified by Prep. HPLC. Yield: 24.69 mg (10%). 1HNMR (400 MHz, DMSO-d6): δ 1.04-1.07 (m, 2H), 1.17-120 (m, 2H), 2.29 (s, 3H), 2.82 (d, J=4.4 Hz, 3H), 3.54 (s, 3H), 6.7 (s, 1H), 7.37-7.43 (m, 5H), 7.58 (s, 1H), 7.74-7.77 (d, J=8.8 Hz, 1H), 7.81-7.82 (m, 2H), 7.97-8.01 (m, 2H), 8.46-8.47 (m, 1H), 9.06 (s, 1H) LCMS: (ES+) m/z=523.2 (M+H)+

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | 0.37 mmol, 0.15 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2C | C24H18FNO4
reactant | 1-(1-methyl-1H-imidazol-4-yl) cyclopropanamine | 0.44 mmol, 0.061 g, 1.2 eq | CN1C=NC(=C1)C1(CC1)N | C7H11N3
reactant | EDCI.HCl | 0.40 mmol, 0.078 g, 1.1 eq | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 0.37 mmol, 0.049 g, 1.0 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(1-methyl-1H-imidazol-4-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NC2(CC2)C=2N=CN(C2)C)=O)C | C31H27FN4O3
